US03996280
Preparation of 4-(2,2,2-Trifluoroethoxy)benzamide
A solution of methyl 4-(2,2,2-trifluoroethoxy)-benzoate (3 g., 0.013 mole) in methanol (25 ml.) is cooled using a dry-ice acetone bath, and the solution is saturated with anhydrous ammonia, then heated in a pressure reactor at 110° for 10 hours. The methanolic solution is filtered and the filtrate is evaporated. The residue is chromatographed on neutral alumina and the early fractions which elute rapidly with ethyl acetate are discarded, methyl ethyl ketone fractions are discarded and methanol fractions finally give a tan solid when evaporated. When recrystallized from ethanol the white solid is found to be 4-(2,2,2-trifluoroethoxy)benzamide, m.p. 177°-178° C.

reactant | methyl 4-(2,2,2-trifluoroethoxy)-benzoate | 0.013 mole, 3 g | FC(COC1=CC=C(C(=O)OC)C=C1)(F)F | C10H9F3O3
reactant | ammonia | N | H3N
solvent | methanol | 25 ml | CO | CH4O
product | 4-(2,2,2-Trifluoroethoxy)benzamide | FC(COC1=CC=C(C(=O)N)C=C1)(F)F | C9H8F3NO2
